US08048897B2
(1) Synthesis of (2-Benzyloxy-6-methoxyphenyl)methanol
In a nitrogen stream, to a suspension of lithium aluminum hydride (0.82 g, 21.50 mmol) in ether (30 mL), a solution of 2-benzyloxy-6-methyl-benzoic acid ethyl ester (4.47 g, 16.54 mmol) in ether (15 mL) was added at room temperature over 10 minutes. The reaction mixture was stirred under heating to reflux for one hour. Ethyl acetate (2 mL) was added dropwise to the reaction mixture under cooling with ice, and then a saturated Rochelle salt aqueous solution (20 mL) was added thereto dropwise and the mixture was stirred at room temperature for one hour. The reaction mixture was subjected to Celite filtration. To the filtrate was added a saturated Rochelle salt aqueous solution (10 mL) and the mixture was extracted with ether. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous sodium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:4)] to obtain the title compound (3.84 g, 100%).

reactant | lithium aluminum hydride | 21.50 mmol, 0.82 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-benzyloxy-6-methyl-benzoic acid ethyl ester | 16.54 mmol, 4.47 g | C(C)OC(C1=C(C=CC=C1C)OCC1=CC=CC=C1)=O | C17H18O3
reactant | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
reactant | Rochelle salt | 20 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 15 mL | CCOCC | C4H10O
product | (2-Benzyloxy-6-methoxyphenyl)methanol | 3.84 g, 100% | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)OC)CO | C15H16O3
